Transistor-level TIA private fixture
.lib "/opt/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_tt
.lib "/opt/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ
.options method=gear maxord=2 reltol=1e-3 abstol=1e-12 vntol=1e-6 itl4=500 rshunt=1e12
R_TB_BUF_LOAD outp outn 100
* IHP SG13G2 25-Gbaud differential optical-receiver front end
*
* Public nodes: vcc mc mgc oa inp inn finalp finaln gc agc
*               bufinp bufinn outp outn pkdinp pkdinn detp detn
*
* =====================================================================
* Replica: Vin = I*Re = 0.7594 V
* =====================================================================
Xqrep vb vb erep 0 npn13G2 Nx=4
Rerep erep 0 366.5
Rqrep vcc vb 820
Cvb vb 0 50p
Cerep erep 0 10p

Xqcrep vcref vb erepc 0 npn13G2 Nx=4
Rerepc erepc 0 366.5
Rcrep vcc vcref 620
Cvcref vcref 0 5p

* =====================================================================
* TIA P + DOC
* =====================================================================
Xqcbp ctp vb inp 0 npn13G2 Nx=4
Rinp inp 0 366.5
Ltp vcc nltp 0.70n
Rctp nltp ctp 530

Rlpfp ctp ctpfp 2Meg
Clpfp ctpfp 0 8p
Riso_p ctpfp docbp 12k
Ciso_p docbp 0 1p
Xqdpr dcop vcref edp 0 npn13G2 Nx=1
Xqdps dummyp docbp edp 0 npn13G2 Nx=1
Redp edp 0 8000
Rldcp vcc dcop 30k
Rldsp vcc dummyp 30k
Cdcop dcop 0 1p
Cdummp dummyp 0 1p
Xqefdp vcc dummyp gdocp 0 npn13G2 Nx=1
Rgdocp gdocp 0 80k
Cgdocp gdocp 0 5p
Xmdoc_p inp gdocp 0 0 sg13_hv_nmos w=8u l=0.45u ng=1 m=8

* =====================================================================
* TIA N + DOC
* =====================================================================
Xqcbn ctn vb inn 0 npn13G2 Nx=4
Rinn inn 0 366.5
Ltn vcc nltn 0.70n
Rctn nltn ctn 530

Rlpfn ctn ctpfn 2Meg
Clpfn ctpfn 0 8p
Riso_n ctpfn docbn 12k
Ciso_n docbn 0 1p
Xqdnr dcon vcref edn 0 npn13G2 Nx=1
Xqdns dummyn docbn edn 0 npn13G2 Nx=1
Redn edn 0 8000
Rldcn vcc dcon 30k
Rldsn vcc dummyn 30k
Cdcon dcon 0 1p
Cdumnn dummyn 0 1p
Xqefdn vcc dummyn gdocn 0 npn13G2 Nx=1
Rgdocn gdocn 0 80k
Cgdocn gdocn 0 5p
Xmdoc_n inn gdocn 0 0 sg13_hv_nmos w=8u l=0.45u ng=1 m=8

Xqeftp vcc ctp ntp 0 npn13G2 Nx=2
Xqeftn vcc ctn ntn 0 npn13G2 Nx=2
Retp ntp 0 600
Retn ntn 0 600

* =====================================================================
* RF VGA 1
* =====================================================================
C1p ntp g1p 20n
C1n ntn g1n 20n
Rb1pt vcc g1p 16000
Rb1pb g1p 0 9000
Rb1nt vcc g1n 16000
Rb1nb g1n 0 9000

Xq1p n1c g1p e1p 0 npn13G2 Nx=3
Xq1n n1d g1n e1n 0 npn13G2 Nx=3
Re1p e1p t1 28
Re1n e1n t1 28
Xmg1 e1p gc e1n 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=20
Xmg1p e1p gc t1 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=12
Xmg1n e1n gc t1 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=12
Rt1 t1 0 95
L1p vcc nl1p 1p
R1p nl1p n1c 90
L1n vcc nl1n 1p
R1n nl1n n1d 90

Xqef1p vcc n1c n1p 0 npn13G2 Nx=2
Xqef1n vcc n1d n1n 0 npn13G2 Nx=2
Re1fp n1p 0 520
Re1fn n1n 0 520

* =====================================================================
* RF VGA 2
* =====================================================================
C2p n1p g2p 20n
C2n n1n g2n 20n
Rb2pt vcc g2p 16000
Rb2pb g2p 0 9000
Rb2nt vcc g2n 16000
Rb2nb g2n 0 9000

Xq2p n2c g2p e2p 0 npn13G2 Nx=3
Xq2n n2d g2n e2n 0 npn13G2 Nx=3
Re2p e2p t2 28
Re2n e2n t2 28
Xmg2 e2p gc e2n 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=20
Xmg2p e2p gc t2 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=12
Xmg2n e2n gc t2 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=12
Rt2 t2 0 95
L2p vcc nl2p 1p
R2p nl2p n2c 86
L2n vcc nl2n 1p
R2n nl2n n2d 86

Xqef2p vcc n2c n2p 0 npn13G2 Nx=3
Xqef2n vcc n2d n2n 0 npn13G2 Nx=3
Re2fp n2p 0 420
Re2fn n2n 0 420

* =====================================================================
* Output buffer
* =====================================================================
Cbp n2p bufinp 20n
Cbn n2n bufinn 20n
Rbupt vcc bufinp 4770
Rbupb bufinp 0 10000
Rbunt vcc bufinn 4770
Rbunb bufinn 0 10000

Xqbp outp bufinp ebp 0 npn13G2v Nx=4 El=2.5
Xqbn outn bufinn ebn 0 npn13G2v Nx=4 El=2.5
Rebp ebp tb 18.5
Rebn ebn tb 18.5
Rtb tb 0 80
Lbp vcc nlbp 1p
Rlp nlbp outp 70
Lbn vcc nlbn 1p
Rln nlbn outn 70
Coutp outp 0 63f
Coutn outn 0 63f

Rfp outp finalp 0.05
Rfn outn finaln 0.05

* =====================================================================
* Peak detector
* =====================================================================
Cpp n2p pkdinp 8f
Cpn n2n pkdinn 8f
Rppt vcc pkdinp 5770
Rppb pkdinp 0 10000
Rpnt vcc pkdinn 5770
Rpnb pkdinn 0 10000

Xqpkp detp pkdinp epk 0 npn13G2 Nx=8
Xqpkn detn pkdinn epk 0 npn13G2 Nx=1
Repk epk 0 90
Rdetp vcc detp 2400
Rdetn vcc detn 2400
Cdetp detp 0 20p
Cdetn detn 0 20p

* =====================================================================
* AGC amplifier, target 15.03 V/V
* =====================================================================
Rdivt vcc agcref 10000
Rdivb agcref 0 5750
Xqagp agc_x oa eagp 0 npn13G2 Nx=3
Xqagn agc agcref eagn 0 npn13G2 Nx=3
Reagp eagp tagc 8
Reagn eagn tagc 8
Rtag tagc 0 200
Rcagx vcc agc_x 1900
Rcagc vcc agc 1900
Cagc agc 0 0.25p

* =====================================================================
* Manual / automatic gain mux
* =====================================================================
Xinvn mc_inv mc 0 0 sg13_hv_nmos w=5u l=0.45u ng=1 m=2
Xinvp mc_inv mc vcc vcc sg13_hv_pmos w=10u l=0.4u ng=1 m=2
Xtgn_man gc mc_inv mgc 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=20
Xtgp_man gc mc mgc vcc sg13_hv_pmos w=10u l=0.4u ng=1 m=20
Xtgn_auto gc mc agc 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=20
Xtgp_auto gc mc_inv agc vcc sg13_hv_pmos w=10u l=0.4u ng=1 m=20
Cgc gc 0 0.15p

Rdump vcc 0 4300

V_TB_VCC vcc 0 3.3
V_TB_MC mc 0 0
V_TB_MGC mgc 0 1.4
V_TB_OA oa 0 1.2
I_TB_P 0 inp DC 0 AC 1
I_TB_N inn 0 DC 0 AC 1
.control
set wr_vecnames
set wr_singlescale
ac dec 100 1Meg 100G
wrdata ac.dat v(finalp,finaln)
quit
.endc
.end
